US05942617
Eight milliliters of acetonitrile and 2.13 ml (10 equivalents) of benzyl chloride were added to 0.758 g (1.85 mmols) of triacetylguanosine, and the mixture was reacted at 70° C. for 47 hours. The temperature was returned to room temperature, and 3.13 ml (20 equivalents) of conc. hydrochloric acid were added thereto. The reaction was conducted for 4 hours. After 2 hours of the reaction, the solid was precipitated. Ten grams of methanol were added thereto, and the slurry was stirred overnight, and then filtered. The crystals were washed twice with 5 ml of methanol, and dried at 50° C. under reduced pressure to give 0.456 g of 7-benzylguanine crystals in a yield of 78.5%.

reactant | benzyl chloride | 2.13 ml, 10 equivalents | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triacetylguanosine | 1.85 mmols, 0.758 g | C(C)(=O)[C@@]1([C@]([C@@](O[C@@H]1CO)(N1C=NC=2C(=O)NC(N)=NC12)C(C)=O)(O)C(C)=O)O | C16H19N5O8
reactant | hydrochloric acid | 3.13 ml, 20 equivalents | Cl | ClH
solvent | acetonitrile | Eight milliliters | C(C)#N | C2H3N
product | 7-benzylguanine | 0.456 g, yield of 78.5% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)N | C12H11N5O
